US08859493B2
Step 5. 2-[3-(3-{4-[3-(7-tert-butoxycarbonylheptanoylamino)propoxy]butoxy}propylcarbamoyl)-propionylamino]pentanedioic acid 5-tert-butyl ester 1-(2,5-dioxopyrrolidin-1-yl) ester
2-[3-(3-{4-[3-(7-tert-butoxycarbonylheptanoylamino)propoxy]butoxy}-propylcarbamoyl)-propionylamino]pentanedioic acid 1-tert-butyl ester (1.5 g, 2.14 mmol) was dissolved in THF (20 mL), pH was adjusted to 8.5 with DIPEA (0.9 mL), TSTU (0.83 g, 2.77 mmol) was added in DMF (5 mL). The mixture was stirred under nitrogen overnight, subsequent evaporation and extraction between EtAc and HCl as described above resulted in 1.75 g crude product.

reactant | 2-[3-(3-{4-[3-(7-tert-butoxycarbonylheptanoylamino)propoxy]butoxy}-propylcarbamoyl)-propionylamino]pentanedioic acid 1-tert-butyl ester | 2.14 mmol, 1.5 g | C(C)(C)(C)OC(C(CCC(=O)O)NC(CCC(NCCCOCCCCOCCCNC(CCCCCCC(=O)OC(C)(C)C)=O)=O)=O)=O | C35H63N3O11
reactant | DIPEA | 0.9 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | TSTU | 2.77 mmol, 0.83 g | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C(=O)CCC1=O
reactant | THF | 20 mL | C1CCOC1 | C4H8O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-[3-(3-{4-[3-(7-tert-butoxycarbonylheptanoylamino)propoxy]butoxy}propylcarbamoyl)-propionylamino]pentanedioic acid 5-tert-butyl ester 1-(2,5-dioxopyrrolidin-1-yl) ester | 1.75 g | O=C1N(C(CC1)=O)OC(C(CCC(=O)OC(C)(C)C)NC(CCC(NCCCOCCCCOCCCNC(CCCCCCC(=O)OC(C)(C)C)=O)=O)=O)=O | C39H66N4O13
